US05446153
N4 -Butyl-6-methyl-3-nitro-N2,N2 -bis(phenylmethyl)pyridine-2,4-diamine
Dibenzylamine (1.04 g, 5.28 mmole), triethylamine (0.53 g, 5.28 mmole), 4-butylamino-6-methyl-3-nitro-2-pyridinyl trifluoromethanesulfonate (1.72 g, 5.28 mmole) and toluene (45 mL) were combined and heated at reflux for 18 hours. The reaction mixture was cooled to ambient temperature then filtered through a layer of silica gel. The silica gel was eluted with methylene chloride. The combined organic filtrates were evaporated to provide 2.08 g of an oily semisolid.

reactant | Dibenzylamine | 5.28 mmole, 1.04 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | triethylamine | 5.28 mmole, 0.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-butylamino-6-methyl-3-nitro-2-pyridinyl trifluoromethanesulfonate | 5.28 mmole, 1.72 g | FC(S(=O)(=O)OC1=NC(=CC(=C1[N+](=O)[O-])NCCCC)C)(F)F | C11H14F3N3O5S
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | N4 -Butyl-6-methyl-3-nitro-N2,N2 -bis(phenylmethyl)pyridine-2,4-diamine | 2.08 g | C(CCC)NC1=C(C(=NC(=C1)C)N(CC1=CC=CC=C1)CC1=CC=CC=C1)[N+](=O)[O-] | C24H28N4O2
